US07414050B2
e) 4-Cyano-1H-imidazole-2-carboxylic acid [2-cyclohex-1-enyl-4-(1,1-dioxo-1λ6-[1,2,6]thiadiazinan-4-yl)-phenyl]-amide
To a solution of 4-cyano-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazole-2-carboxylic acid [2-cyclohex-1-enyl-4-(1,1-dioxo-1λ6-[1,2,6]thiadiazinan-4-yl)-phenyl]-amide (as prepared in the previous step, 17.8 mg, 0.0320 mmol) in DMF (35 μL) and ethylenediamine (13 μL, 0.18 mmol), solid tetrabutylammonium fluoride (TBAF) (25 mg, 0.090 mmol) was added. The resulting solution was stirred at 60° C. for 12 h. The reaction mixture was concentrated in vacuo and the resulting residue purified on silica (20-100% EtOAc-hexane) to afford the title compound (9.3 mg, 68%): 1H-NMR (CD3OD; 400 MHz): δ 8.19 (d, 1H, J=8.7 Hz), 8.05 (s, 1H), 7.18 (dd, 1H, J=8.7, 2.2 Hz), 7.08 (d, 1H, J=2.2 Hz), 5.81 (br s, 1H), 3.62 (m, 2H), 3.35 (m, 2H), 2.93 (m, 1H), 2.24-2.34 (m, 4H), 1.82-1.90 (m, 4H). Mass spectrum (ESI, m/z): Calcd. for C20H22N6O3S, 427.1 (M+H), found 427.2.

reactant | 4-cyano-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazole-2-carboxylic acid [2-cyclohex-1-enyl-4-(1,1-dioxo-1λ6-[1,2,6]thiadiazinan-4-yl)-phenyl]-amide | C1(=CCCCC1)C1=C(C=CC(=C1)C1CNS(NC1)(=O)=O)NC(=O)C=1N(C=C(N1)C#N)COCC[Si](C)(C)C | C26H36N6O4SSi
reactant | ethylenediamine | 0.18 mmol, 13 μL | C(CN)N | C2H8N2
reactant | tetrabutylammonium fluoride | 0.090 mmol, 25 mg | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | DMF | 35 μL | CN(C)C=O | C3H7NO
product | 4-Cyano-1H-imidazole-2-carboxylic acid [2-cyclohex-1-enyl-4-(1,1-dioxo-1λ6-[1,2,6]thiadiazinan-4-yl)-phenyl]-amide | 9.3 mg, 68% | C1(=CCCCC1)C1=C(C=CC(=C1)C1CNS(NC1)(=O)=O)NC(=O)C=1NC=C(N1)C#N | C20H22N6O3S
